US04318913
1-Methyl-N5 -[3-[3-[1-piperidinylmethyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine
3-[3-[1-Piperidinylmethyl]phenoxy]propanamine (2.48 g) and N-cyano-1-methyl-2-(phenylmethylene)hydrazine carboximidothioic acid, methyl ester (2.32 g) were heated at 70° under water-pump vacuum for 4 hr. Acetone was added and the solution was treated with dilute hydrochloric acid for 1 hr, washed with ether, basified and extracted with ethyl acetate. Evaporation of the ethyl acetate extracts gave an oil which crystallised from toluene/ether to give the title compound as a white solid (0.98 g) m.p. 94°-5°. TLC silica, methanol/0.88 ammonia 80:1, Rf 0.5.

reactant | 3-[3-[1-Piperidinylmethyl]phenoxy]propanamine | 2.48 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | N-cyano-1-methyl-2-(phenylmethylene)hydrazine carboximidothioic acid, methyl ester | 2.32 g | C(#N)N=C(SC)N(N=CC1=CC=CC=C1)C | C11H12N4S
reactant | hydrochloric acid | Cl | ClH
solvent | Acetone | CC(=O)C | C3H6O
product | 1-Methyl-N5 -[3-[3-[1-piperidinylmethyl]phenoxy]propyl]-1H-1,2,4-triazole-3,5-diamine | 0.98 g | CN1N=C(N=C1NCCCOC1=CC(=CC=C1)CN1CCCCC1)N | C18H28N6O
